US07557215B2
[1-(2-Amino-ethyl)-piperidin-2-yl-]methanol (S9)
The method follows that of S6 using 2-hydroxymethyl-piperidin-1-yl-acetonitrile (31.96 g, 0.208 mol), LiAlH4 (23.68 g, 0.624 mol) and dry THF (200 mL). The title compound (8.74 g, 27%) was afforded as straw-coloured oil by kugelrohr distillation (225° C., 0.13 mbar). δH (250 MHz; CDCl3); 1.2-1.75 (m, 6H, CH2CH2CH2, CH2CH2CH and CH2CH2CH), 2.2 (m, 1H, 1×NCH2CH2) 2.35 (m, 2H, H2NCH2CH2N), 2.58 (s (broad), 3H, OH and NH2), 2.75 (t, 2H, H2NCH2CH2N), 2.85 (3×d, 1H, 1×NCH2CH2), 2.92 (m, 1H, NCHCH2), 3.4 (2×d, 1H, J=4 Hz and 12 Hz, 1×CHCH2OH) and 3.76 (2×d, 1H, J=4 Hz and 12 Hz, 1×CHCH2OH; FAB MS, m/z(M+H)+ 159.

reactant | 2-hydroxymethyl-piperidin-1-yl-acetonitrile | 0.208 mol, 31.96 g | OCC1N(CCCC1)CC#N | C8H14N2O
reactant | LiAlH4 | 0.624 mol, 23.68 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | [1-(2-Amino-ethyl)-piperidin-2-yl-]methanol | 8.74 g, 27% | NCCN1C(CCCC1)CO | C8H18N2O
